* C:\Users\willt\OneDrive\Documents\LTspice\Draft3.asc
* Generated by LTspice 24.1.6 for Windows.
R1 N001 N004 15.8k
C1 N006 N001 100nF
X§U1 N008 N005 N006 opamp Aol=100K GBW=10Meg
R2 N006 N008 1.52k
R3 N008 0 10k
R4 N002 N006 15.8k
C2 N003 N002 100nF
R5 N007 N002 15.8k
X§U2 N009 N007 N003 opamp Aol=100K GBW=10Meg
R6 N005 N001 15.8k
C3 N005 0 100nF
C4 N007 0 100nF
R7 N003 N009 12.35k
R8 N009 0 10k
R9 N003 N010 10k
R10 N010 0 6.3k
V1 N004 0 AC 1
.lib opamp.sub
.ac dec 1000 1 10000
.backanno
.end
